* Subcircuit 2bit_DAC
.subckt 2bit_DAC /vrefh /vrefl /d0 /d1 /vdd /vout 
* c:\fossee\esim\library\subcircuitlibrary\2bit_dac\2bit_dac.cir

.options wnflag=1

.include switch.sub
r1  /vrefh net-_r1-pad2_ 250
r2  net-_r1-pad2_ net-_r2-pad2_ 250
r3  net-_r2-pad2_ net-_r3-pad2_ 250
r4  net-_r3-pad2_ /vrefl 250
x1 /d0 /vdd net-_r1-pad2_ net-_r2-pad2_ net-_x1-pad5_ switch
x2 /d0 /vdd net-_r3-pad2_ /vrefl net-_x2-pad5_ switch
x3 /d1 /vdd net-_x1-pad5_ net-_x2-pad5_ /vout switch
* Control Statements

.ends 2bit_DAC
